US05646173
A solution of 5.0 g of (RS)-2-(2-buten-1-yl)-6-hydroxy-1-indanone, 4.1 ml of ethyl bromide, 6.83 g of potassium carbonate and 10 ml of N,N-dimethyl-formamide in 70 ml of acetone was heated to 35° for 35 hours. After cooling, the solution was poured into 100 ml of water and extracted twice with 100 ml of ethyl acetate each time. The combined organic phases were washed once with 70 ml of water and once with 70 ml of saturated sodium chloride solution, dried over magnesium sulfate and the solution was concentrated in a vacuum. 5.6 g (98%) of (RS)-2-(2-buten-1-yl)-6-ethoxy-1-indanone were obtained as a red-brown oil which was used directly in the next reaction.

reactant | (RS)-2-(2-buten-1-yl)-6-hydroxy-1-indanone | 5.0 g | C(C=CC)C1C(C2=CC(=CC=C2C1)O)=O | C13H14O2
reactant | ethyl bromide | 4.1 ml | C(C)Br | C2H5Br
reactant | potassium carbonate | 6.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethyl-formamide | 10 ml | CN(C=O)C | C3H7NO
solvent | acetone | 70 ml | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
product | (RS)-2-(2-buten-1-yl)-6-ethoxy-1-indanone | 5.6 g, 98% | C(C=CC)C1C(C2=CC(=CC=C2C1)OCC)=O | C15H18O2
